US07485283B2
To a solution of 1-(2,2-dimethyl-chroman-6-yl)-2-(3,4,5-trimethoxy-phenyl)-ethanone (37 g, 0.1 mol, Chemistry and Biology 2000, 7, 979) in carbon tetrachloride (300 mL) is added bromine (16.0 g, 0.1 mol) at such a rate to obtain a continuous discoloration of the reaction mixture. After the addition is complete (about 10 minutes), the reaction mixture is evaporated under reduced pressure to obtain 2-bromo-1-(2,2-dimethyl-chroman-6-yl)-2-(3,4,5-trimethoxy-phenyl)-ethanone, which is used in the next step without further purification.

reactant | 1-(2,2-dimethyl-chroman-6-yl)-2-(3,4,5-trimethoxy-phenyl)-ethanone | 0.1 mol, 37 g | CC1(OC2=CC=C(C=C2CC1)C(CC1=CC(=C(C(=C1)OC)OC)OC)=O)C | C22H26O5
reactant | bromine | 0.1 mol, 16.0 g | BrBr | Br2
solvent | carbon tetrachloride | 300 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-bromo-1-(2,2-dimethyl-chroman-6-yl)-2-(3,4,5-trimethoxy-phenyl)-ethanone | BrC(C(=O)C=1C=C2CCC(OC2=CC1)(C)C)C1=CC(=C(C(=C1)OC)OC)OC | C22H25BrO5
